US07115750B1
2-(R)-[2-(N,N-Dimethylamino)ethyl]-6-(4-hydroxyphenyl) methoxytetralin
THF solution (2 ml) of 2-(R)-[2-(N,N-dimethylamino)ethyl]-6-[4-(4-methoxyphenylcarbonyloxy) phenylmethoxy]tetralin (330 mg) was added dropwise to THF suspension (4 ml) of lithium aluminum hydride (60 mg) under ice-cooling. 1N aqueous sodium hydroxide solution was added the reaction mixture to make the mixture basic, and the precipitate was removed by celite filtration. After the filtrate was concentrated, the residue was purified using silica gel chromatography (development solvent; ethyl acetate-methanol), and recrystallized (ethyl acetate-hexane) to give the titled compound (70 mg).

reactant | 2-(R)-[2-(N,N-dimethylamino)ethyl]-6-[4-(4-methoxyphenylcarbonyloxy) phenylmethoxy]tetralin | 330 mg | CN(C)CC[C@H]1CC2=CC=C(C=C2CC1)OCC1=CC=C(C=C1)OC(=O)C1=CC=C(C=C1)OC | C29H33NO4
reactant | lithium aluminum hydride | 60 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | THF | 4 ml | C1CCOC1 | C4H8O
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | 2-(R)-[2-(N,N-Dimethylamino)ethyl]-6-(4-hydroxyphenyl) methoxytetralin | 70 mg | CN(C)CC[C@H]1CC2=CC=C(C=C2CC1)OCC1=CC=C(C=C1)O | C21H27NO2
